### PR TITLE
feat(Topology): make `CofiniteTopology` Prop valued

### PR DESCRIPTION
**Pull request by felixpernegger**
Per discussion at https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/.60CofiniteTopology.60.20should.20be.20Prop.20valued/with/602521494

The old `CofiniteTopology` is now `WithCofiniteTopology` (this mirrors what we do with discrete spaces)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Constructions.lean [hunk 1]
```diff
@@ -289,28 +289,37 @@ protected def TopologicalSpace.cofinite {X : Type*} : TopologicalSpace X where
 
 /-- A type synonym equipped with the topology whose open sets are the empty set and the sets with
 finite complements. -/
-abbrev CofiniteTopology (X : Type*) :=
+abbrev WithCofiniteTopology (X : Type*) :=
```
Comment (scholzhannah) [inline Mathlib/Topology/Constructions.lean:294]: I feel like technically we would probably need a deprecation here. But I also see that it would be very annoying to wait around for such as simple change. Maybe you could at least mention `WithCofiniteTopology` in the docstring of `CofiniteTopology` so that downstream users would have some chance of figuring out what is going on.

File: Mathlib/Topology/Constructions.lean [hunk 2]
```diff
@@ -289,28 +289,37 @@ protected def TopologicalSpace.cofinite {X : Type*} : TopologicalSpace X where
...
+      finite_image_iff (WithTopology.ofTopology_injective _).injOn]
 
-theorem isOpen_iff {s : Set (CofiniteTopology X)} : IsOpen s ↔ s.Nonempty → sᶜ.Finite := by
-  simp_rw [isOpen_coinduced, TopologicalSpace.cofinite, isOpen_mk, ← Set.preimage_compl,
-    WithTopology.preimage_toTopology, image_nonempty,
-    finite_image_iff (WithTopology.ofTopology_injective _).injOn]
+variable {X : Type*} [TopologicalSpace X] [CofiniteTopology X]
 
-theorem isOpen_iff' {s : Set (CofiniteTopology X)} : IsOpen s ↔ s = ∅ ∨ sᶜ.Finite := by
+theorem isOpen_iff' {s : Set X} : IsOpen s ↔ s = ∅ ∨ sᶜ.Finite := by
```
Comment (scholzhannah) [inline Mathlib/Topology/Constructions.lean:322]: I know that this is preexisting, but could you maybe write a docstring for this lemma while you're at it? I think that wanted for all primed lemmas.

File: Mathlib/Topology/Constructions.lean (hunk 1 above)
Comment (scholzhannah) [reply Mathlib/Topology/Constructions.lean:294]: Apparently, by the style guide this is discouraged but allowed. So feel free to do what you want.

**Review by scholzhannah — COMMENTED** [review]
Thank you for doing this! I have some subjective comments that you can feel free to ignore. Otherwise this looks good to me!

File: Mathlib/Topology/Constructions.lean (hunk 1 above)
Comment (felixpernegger) [reply Mathlib/Topology/Constructions.lean:294]: Discourages what?

Comment (scholzhannah) [reply Mathlib/Topology/Constructions.lean:294]: The style guide reads: 
We allow, but discourage, contributors from simultaneously renaming declarations X to Y and W to X. In this case, no deprecation attribute is required for X, but it is for W.

This is slightly different but I think it still applies.

Comment (felixpernegger) [reply Mathlib/Topology/Constructions.lean:294]: I expanded the docstrings for the two defs now to reference each other, I think this is enough now (in particular every downstream project can see immediately what to change).

**Comment by scholzhannah** [comment]
This looks good to me now!

maintainer merge

File: Mathlib/Topology/Constructions.lean [hunk 3]
```diff
@@ -288,29 +288,44 @@ protected def TopologicalSpace.cofinite {X : Type*} : TopologicalSpace X where
     exact Finite.sInter (mem_image_of_mem _ hts) (h t hts ⟨x, hzt⟩)
 
 /-- A type synonym equipped with the topology whose open sets are the empty set and the sets with
-finite complements. -/
-abbrev CofiniteTopology (X : Type*) :=
+finite complements.
+
+For a `Prop` valued version, see `CofiniteTopology`. -/
```
Comment (fpvandoorn) [inline Mathlib/Topology/Constructions.lean]:
```suggestion
For the predicate stating that a particular topological space is the cofinite topology, see `CofiniteTopology`. -/
```

Comment (fpvandoorn) [reply Mathlib/Topology/Constructions.lean]: (I didn't check whether this fits in 100 columns)

File: Mathlib/Topology/Constructions.lean [hunk 4]
```diff
@@ -288,29 +288,44 @@ protected def TopologicalSpace.cofinite {X : Type*} : TopologicalSpace X where
...
+instance WithCofiniteTopology.instInhabited [Inhabited X] : Inhabited (WithCofiniteTopology X) where
+  default := of default
 
-/-- The identity equivalence between `X` and `CofiniteTopology X`. -/
-def of : X ≃ CofiniteTopology X := (WithTopology.equiv _ _).symm
+/-- A space has cofinite topology if a set is open if and
+only if it is empty or has finite complement.
+
+For a type synonym equipped with the cofinite topology see `WithCofiniteTopology`. -/
+class CofiniteTopology (X : Type*) [TopologicalSpace X] : Prop where
```
Comment (fpvandoorn) [inline Mathlib/Topology/Constructions.lean:307]:
```suggestion
class HasCofiniteTopology (X : Type*) [TopologicalSpace X] : Prop where
```
We like to name Prop-valued classes using a noun phrase to use the prefix `Is` or `Has`. 
At some point we should also rename `DiscreteTopology`.
The section on this in the naming conventions is not super clear, let me make a PR for that: https://leanprover-community.github.io/contribute/naming.html#prop-valued-classes

Comment (fpvandoorn) [reply Mathlib/Topology/Constructions.lean:307]: This would also allow you to make all deprecations.
